US04128540
A mixture consisting of 33.5 g. of N-benzyloxycarbonyl-L-prolylglycinamide (this compound has been reported in Synthetic Peptides, Vol. 1, G. R. Pettit, Van Nostrand Reinhold Company, New York, 1970, page 151), 1 g. of 20% palladium-on-carbon, and 500 ml. of methanol is hydrogenated at 50 lbs./in.2 hydrogen pressure and room temperature for one hour. The mixture is filtered to remove the catalyst, and the filtrate is evaporated to dryness to give a solid residue of L-prolylglycinamide; m.p. 124°-127° C., following crystallization from acetonitrile-toluene; [α]D25 -48.5° (2% in water).

reactant | N-benzyloxycarbonyl-L-prolylglycinamide | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)NCC(=O)N)CCC1 | C15H19N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | L-prolylglycinamide | N1[C@H](C(=O)NCC(=O)N)CCC1 | C7H13N3O2
